US08754114B2
Step 2: ethyl 2-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]propanoate
4,4,5,5-Tetramethyl-1,3,2-dioxaborolane (1.3 mL, 9.0 mmol) was added to a mixture of ethyl 2-(4-bromophenyl)propanoate (1.3 g, 5.0 mmol), bis(acetonitrile)palladium(II) chloride (26 mg, 0.10 mmol), 2-(dicyclohexylphosphino)-2′,6′-dimethoxy-1,1′-biphenyl (160 mg, 0.40 mmol) and triethylamine (2.1 mL, 15 mmol) in 1,4-dioxane (3.0 mL) and then the mixture was evacuated under reduced pressure and then refilled with nitrogen thrice. The reaction was then heated at 110° C. for 4 h. The mixture was cooled to r.t. and filtered through a short pad of silical gel and then washed with ethyl acetate. The solvent was removed under reduced pressure. The residue was purified by flash chromatography on a silica gel column eluting with ethyl acetate in hexane (0-10%) to afford the desired product.

reactant | 4,4,5,5-Tetramethyl-1,3,2-dioxaborolane | 9.0 mmol, 1.3 mL | CC1(OBOC1(C)C)C | C6H13BO2
reactant | ethyl 2-(4-bromophenyl)propanoate | 5.0 mmol, 1.3 g | BrC1=CC=C(C=C1)C(C(=O)OCC)C | C11H13BrO2
reactant | 2-(dicyclohexylphosphino)-2′,6′-dimethoxy-1,1′-biphenyl | 0.40 mmol, 160 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1OC)OC)C1CCCCC1 | C26H35O2P
reactant | triethylamine | 15 mmol, 2.1 mL | C(C)N(CC)CC | C6H15N
solvent | 1,4-dioxane | 3.0 mL | O1CCOCC1 | C4H8O2
catalyst | bis(acetonitrile)palladium(II) chloride | 0.10 mmol, 26 mg | CC#N.CC#N.Cl[Pd]Cl
product | ethyl 2-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]propanoate | CC1(OB(OC1(C)C)C1=CC=C(C=C1)C(C(=O)OCC)C)C | C17H25BO4
